US07375115B2
1-(2-Bromoethyl)cyclohexylacetic acid
To 3-oxaspiro[5.5]undecan-2-one (16.9 g)was added a 30% hydrogen bromide/acetic acid solution (75 mL). The reaction solution was stirred at room temperature for 48 hours. Water was added to the solution, and the crystals thus separated were recovered by filtration and washed with water. The resulting crystals were dissolved in ethyl acetate, and the solution was dried over anhydrous magnesium sulfate and filtered. The filtrate was then concentrated under reduced pressure to give crude crystals. The crude crystals thus obtained were recrystallized from ethyl acetatehexane to give the title compound (20.0 g).

reactant | 3-oxaspiro[5.5]undecan-2-one | 16.9 g | C1C(OCCC12CCCCC2)=O | C10H16O2
reactant | hydrogen bromide acetic acid | 75 mL | Br.C(C)(=O)O
solvent | Water | O | H2O
product | 1-(2-Bromoethyl)cyclohexylacetic acid | 20.0 g | BrCCC1(CCCCC1)CC(=O)O | C10H17BrO2
